US08623869B2
Step 8: tert-Butyl N-[1-[3-[5-[2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]isoxazol-3-yl]phenyl]ethyl]carbamate
To a solution of 7-ethynyl-2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazine (72 mg, 0.2213 mmol) and tert-butyl 1-(3-(chloro(hydroxyimino)methyl)phenyl)ethylcarbamate (66.12 mg, 0.2213 mmol) in THF (2.5 mL) was added triethylamine (26.88 mg, 37.02 μL, 0.2656 mmol) The mixture was stirred at ambient temperature for 45 minutes then heated at 65° C. for 3.5 hours. The reaction was cooled to ambient temperature and the solvent removed in vacuo. The residues was dissolved in warm DCM (50 mL) and washed with saturated aqueous NaHCO3(×1), dried (MgSO4), filtered and concentrated in vacuo. The residue triturated from hot MeCN and the precipitate obtained on cooling was isolated by filtration and washed with MeCN to give the sub-title compound as a pale yellow powder (83 mg, 64% Yield). 1H NMR (400 MHz, DMSO) δ 1.28 (d, 6H), 1.41-1.45 (m, 3H), 1.43 (s, 9H), 3.58 (sept, 1H), 4.79 (br t, 1H), 7.52-7.62 (m, 4H), 7.92 (d, 1H), 8.00 (s, 1H), 8.10 (d, 2H), 8.68 (d, 2H), 8.76 (s, 1H), 9.25 (s, 1H) and 13.08 (br s, 1H) ppm; MS (ES) 588.1.

reactant | 7-ethynyl-2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.2213 mmol, 72 mg | C(#C)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)S(=O)(=O)C(C)C | C17H15N3O2S
reactant | tert-butyl 1-(3-(chloro(hydroxyimino)methyl)phenyl)ethylcarbamate | 0.2213 mmol, 66.12 mg | ClC(C=1C=C(C=CC1)C(C)NC(OC(C)(C)C)=O)=NO | C14H19ClN2O3
reactant | triethylamine | 0.2656 mmol, 37.02 μL, 26.88 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | tert-Butyl N-[1-[3-[5-[2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]isoxazol-3-yl]phenyl]ethyl]carbamate | 83 mg, 64% Yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C2=CC(=NO2)C=2C=C(C=CC2)C(C)NC(OC(C)(C)C)=O | C31H33N5O5S
